US08080566B1
A 250-mL round-bottomed flask was charged with a solution of AlCl3 (9.26 g, 69.45 mmol, 20.00 equiv, 99%) in 1,2-dichloroethane (150 mL). To this was added 9-benzyl-9H-carbazole-3-carbaldehyde (1 g, 3.47 mmol, 1.00 equiv, 99%) in several batches at room temperature over 5 minutes. The resulting mixture was stirred for 2 hours at room temperature. The reaction was then quenched by the addition of H2O/ice (100 mL). The solids were filtered out. The resulting solution was extracted with DCM (3×100 mL) and the combined organic layers were concentrated on a rotary evaporator to give a residue that was purified by silica gel column chromatography eluted with PE:EtOAc (10:1) to afford 9H-carbazole-3-carbaldehyde as green solid (270 mg, 40%). LCMS: [M+H]+: 196

reactant | AlCl3 | 69.45 mmol, 9.26 g, 20.00 equiv | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 9-benzyl-9H-carbazole-3-carbaldehyde | 3.47 mmol, 1 g, 1.00 equiv | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C=O | C20H15NO
solvent | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
product | 9H-carbazole-3-carbaldehyde | 270 mg, 40% | C1=CC(=CC=2C3=CC=CC=C3NC12)C=O | C13H9NO
